US08664217B2
Pyridinium p-toluenesulfonate (0.21 g, 0.85 mmol) was added to a methanol solution (20 ml) of 6-[2-(tetrahydropyran-2-yloxy)ethyl]-6H-furo[2,3-c]pyridin-7-one (0.45 g, 1.7 mmol), and stirred at room temperature for 2 days. An aqueous sodium hydrogen carbonate solution was added to the reaction mixture, and extracted with dichloromethane. The organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. Diethyl ether was added to the residue to precipitate crystals. The crystals were collected by filtration and dried to thereby obtain 223 mg (yield: 73%) of 6-(2-hydroxyethyl)-6H-furo[2,3-c]pyridin-7-one as a white powder.

reactant | Pyridinium p-toluenesulfonate | 0.85 mmol, 0.21 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | 6-[2-(tetrahydropyran-2-yloxy)ethyl]-6H-furo[2,3-c]pyridin-7-one | 1.7 mmol, 0.45 g | O1C(CCCC1)OCCN1C(C2=C(C=C1)C=CO2)=O | C14H17NO4
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 6-(2-hydroxyethyl)-6H-furo[2,3-c]pyridin-7-one | 223 mg, yield: 73% | OCCN1C(C2=C(C=C1)C=CO2)=O | C9H9NO3
